US06498154B1
4-(2,4,4-Trimethyl-1,4-dihydro-2H-3,1-benzoxazin-6-yl)-2-furonitrile
Prepared using the coupling procedure for Example 13 from 6-bromo-2,4,4-trimethyl-1,4-dihydro-2H-3,1-benzoxazine and 4-bromo-2-cyanofuran. A light brown solid: mp 116-118° C.; 1H-NMR (DMSO-d6) δ 8.43 (s, 1H), 8.06 (s, 1H), 7.38 (d, 1H, J=1.98 Hz), 7.25 (dd, 1H, J=7.93, 1.98 Hz) 6.58 (d, 1H, J=7.93 Hz), 6.37 (s, 1H), 4.77 (q, 1H, J=5.55 Hz), 1.50 (s, 3H), 1.46 (s, 3H), 1.27 (d, 3H, J=5.55 Hz); MS (ES) m/z 269 ([M+H]+); Anal. Calc. For C16H16N2O2: C, 71.62; H, 6.01, N, 10.44. Found: C, 71.55; H, 6.26, N, 10.17.

reactant | 6-bromo-2,4,4-trimethyl-1,4-dihydro-2H-3,1-benzoxazine | BrC=1C=CC2=C(C(OC(N2)C)(C)C)C1 | C11H14BrNO
reactant | 4-bromo-2-cyanofuran | BrC=1C=C(OC1)C#N | C5H2BrNO
product | 4-(2,4,4-Trimethyl-1,4-dihydro-2H-3,1-benzoxazin-6-yl)-2-furonitrile | CC1NC2=C(C(O1)(C)C)C=C(C=C2)C=2C=C(OC2)C#N | C16H16N2O2
